US04857449
(P-186): N-(p-Hydroxyphenyl)acrylamide-butyl acrylate copolymer (25/75)
(P-188): N-Methyl-N'-methacryloylpiperazine-2-ethoxyethyl acrylate copolymer (40/60)

reactant | P-188 | CCN(CC)C1=CC=C(C=C1)C(C2C=CC(=[N+](CC)CC)C=C2)C3=C(C=CC(=C3)S(=O)(=O)O)S(=O)(=O)[O-].[Na+]
reactant | N-Methyl-N'-methacryloylpiperazine 2-ethoxyethyl acrylate | CN1CCN(CC1)C(C(=C)C)=O.C(C=C)(=O)OCCOCC
product | N-(p-Hydroxyphenyl)acrylamide butyl acrylate | OC1=CC=C(C=C1)NC(C=C)=O.C(C=C)(=O)OCCCC | InChI=1S/C9H9NO2.C7H12O2/c1-2-9(12)10-7-3-5-8(11)6-4-7;1-3-5-6-9-7(8)4-2/h2-6,11H,1H2,(H,10,12);4H,2-3,5-6H2,1H3
